US05066680
Thionyl chloride (4.8 ml) was added dropwise to a mixture of N-(4-hydroxy-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide (6.56 g) and N,N-dimethylformamide (5 drops) in dry chloroform (145 ml) at 0° C. and the reaction mixture was refluxed for 1 hour. The mixture was washed successively with water, 1N aqueous sodium hydroxide solution, and sodium chloride, aqueous solution, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel with a mixture of n-hexane and ethyl acetate (5:1) as an eluent to give N-(4-chloro-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide as white powder (6.7 g).

reactant | Thionyl chloride | 4.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-(4-hydroxy-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 6.56 g | OCC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C18H23NO3
catalyst | N,N-dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
solvent | chloroform | 145 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(4-chloro-2-butynyl)-2-cyclohexyl-2-hydroxy-2-phenylacetamide | 6.7 g | ClCC#CCNC(C(C1=CC=CC=C1)(O)C1CCCCC1)=O | C18H22ClNO2
